US07393844B2
A mixture of 3-bromo-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridine (2.51 g, 6.27 mmol), allytributyltin (2.92 mL, 9.41 mmol), tetrakis(triphenylphosphine)palladium(0) (750 mg, 0.627 mmol) and toluene (15 mL) was flushed with nitrogen several times. The reaction mixture was stirred at reflux overnight. The reaction was filtered and concentrated under vacuum. The residue was purified by column chromatography (silica gel, 100% hexane to 5% EtOAc/hexane) to yield 3-allyl-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridine (2.62 g, 100%). 1H-NMR (400 MHz, CDCl3) δ 7.55 (s, 1H), 5.85 (m, 1H), 4.93-5.11 (m, 2H), 4.74 (s, 2H), 4.04 (s, 3H), 3.37 (d, J=5Hz, 2H), 0.99 (s, 9H), 0.17 (s, 6H).

reactant | 3-bromo-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridine | 6.27 mmol, 2.51 g | BrC=1C(=NC(=CC1CO[Si](C)(C)C(C)(C)C)C(F)(F)F)OC | C14H21BrF3NO2Si
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.627 mmol, 750 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-allyl-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridine | 2.62 g, 100% | C(C=C)C=1C(=NC(=CC1CO[Si](C)(C)C(C)(C)C)C(F)(F)F)OC | C17H26F3NO2Si
